US05773612
A') 3-(2-Chlorophenyl)-5-ethoxy-1,3-dihydro-3-hydroxyindol-2-one
This compound is prepared according to the procedure described in Preparation 6 from 5-ethoxyisatin and 2-chlorophenylmagnesium bromide (prepared according to P. G. Gassman in J. Am. Chem. Soc., 1974, 9, 5512).

reactant | 5-ethoxyisatin | C(C)OC=1C=C2C(C(NC2=CC1)=O)=O | C10H9NO3
reactant | 2-chlorophenylmagnesium bromide | ClC1=C(C=CC=C1)[Mg]Br
product | 3-(2-Chlorophenyl)-5-ethoxy-1,3-dihydro-3-hydroxyindol-2-one | ClC1=C(C=CC=C1)C1(C(NC2=CC=C(C=C12)OCC)=O)O | C16H14ClNO3
